US09034880B2
Preparation of 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(1-methylisoquinolin-4-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 420)
The title compound is prepared from a mixture of 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole, 1-methyl-4-vinylisoquinoline and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | 1-methyl-4-vinylisoquinoline | CC1=NC=C(C2=CC=CC=C12)C=C | C12H11N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(1-methylisoquinolin-4-yl)ethyl)-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(N(C2C=C1)CCC1=CN=C(C2=CC=CC=C12)C)CCN(C3)C | C24H24ClN3
